US07179830B2
c) 3-Amino-2-chloro-4-methylthiophene hydrochloride
400 mg of 2-chloro-4-methyl-3-trifluoroacetylaminothiophene were admixed with 1.5 ml of hydrazine hydrate and then stirred at 50° C. for one hour. The mixture was admixed with water, the solution was extracted using ethyl acetate and the organic phase was washed once with dilute acetic acid and once more with water. After the organic phase had been dried over sodium sulfate, it was made strongly acidic using hydrogen chloride-saturated diethyl ether, and the solvent was distilled off on a Rotavapor under reduced pressure. After distilling off to a substantial extent, the mixture was admixed again with ethyl acetate and the solvent was again distilled off, in the course of which brown-colored crystals separated out. The solid was filtered off rapidly and transferred to a desiccator for drying over diphosphorus pentoxide.

reactant | 2-chloro-4-methyl-3-trifluoroacetylaminothiophene | 400 mg | ClC=1SC=C(C1NC(C(F)(F)F)=O)C | C7H5ClF3NOS
reactant | hydrazine hydrate | 1.5 ml | O.NN
solvent | water | O | H2O
product | 3-Amino-2-chloro-4-methylthiophene hydrochloride | Cl.NC1=C(SC=C1C)Cl | InChI=1S/C5H6ClNS.ClH/c1-3-2-8-5(6)4(3)7;/h2H,7H2,1H3;1H
